US07851626B2
The mixture of 3-(3-hydroxy-phenyl)-3-methyl-butan-2-one (3.4 g, 19.08 mmol), diisopropylamine (16.7 mL, 95.4 mmoL) and ethyl iodide (6.2 mL, 76.32 mmol) in 60 mL of ethanol was heated at refluxed overnight. Thin layer chromatography still showed starting material. Potassium carbonate (9 g) was added, and the mixture was heated at reflux for 12 h. It was concentrated in vacuo, and the residue was taken in ethyl acetate. After being washed with water and brine, the organic layer was dried over anhydrous sodium sulfate. The solids were filtered off, and the filtrate was concentrated to give 3.727 g of 3-(3-ethoxy-phenyl)-3-methyl-butan-2-one as light brown oil. It was used without further purification.

reactant | 3-(3-hydroxy-phenyl)-3-methyl-butan-2-one | 19.08 mmol, 3.4 g | OC=1C=C(C=CC1)C(C(C)=O)(C)C | C11H14O2
reactant | diisopropylamine | 16.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethyl iodide | 76.32 mmol, 6.2 mL | C(C)I | C2H5I
reactant | Potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 3-(3-ethoxy-phenyl)-3-methyl-butan-2-one | 3.727 g | C(C)OC=1C=C(C=CC1)C(C(C)=O)(C)C | C13H18O2
